US08012606B2
To a solution of 0.79 g (3.5 millimoles) of palladium (II) acetate in 50 ml of xylene was added 2.84 g (11.2 millimoles) of tri-tert-butylphosphine and the mixture was heated at 80° C. for 30 minutes with stirring. This solution was transferred into a solution heated at 80° C. of 7.54 g (0.0352 mole) of 2,7-diaminodibenzodioxin, 22.0 g (0.0705 mole) of 2,2′-dibromobiphenyl, and 28.41 g (0.296 mole) of sodium tert-butoxide in 500 ml of xylene. The mixture was then heated up to 125° C. and heated at this temperature with stirring for 5 hours. The reaction mixture was cooled to room temperature and 250 ml of water was added. The organic layer was separated from the aqueous layer, the aqueous layer was washed with 250 ml of toluene, and the organic layers were combined, concentrated, and dried under reduced pressure to give 14.8 g of a crude product. The crude product was subjected to reslurrying under heat with ethyl acetate and dried under reduced pressure to give 4.60 g (0.00894 mole, 25.4% yield) of 2,7-bis(9-carbazolyl)dibenzodioxin. The product showed a purity of 99.2 area % (HPLC, 254 nm). The product was purified further by sublimation; FD-MS, m/z 514 [M]+, m.p. 348° C., glass transition temperature (Tg) 118° C.

reactant | tri-tert-butylphosphine | 11.2 millimoles, 2.84 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 2,7-diaminodibenzodioxin | 0.0352 mole, 7.54 g | NC1=CC2=C(OC3=C(O2)C=CC(=C3)N)C=C1 | C12H10N2O2
reactant | 2,2′-dibromobiphenyl | 0.0705 mole, 22.0 g | BrC1=C(C=CC=C1)C1=C(C=CC=C1)Br | C12H8Br2
reactant | sodium tert-butoxide | 0.296 mole, 28.41 g | CC(C)([O-])C.[Na+]
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium (II) acetate | 3.5 millimoles, 0.79 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 250 ml | O | H2O
product | 2,7-bis(9-carbazolyl)dibenzodioxin | 0.00894 mole, 4.60 g, 25.4% yield | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC2=C(OC3=C(O2)C=CC(=C3)N3C2=CC=CC=C2C=2C=CC=CC32)C=C1 | C36H22N2O2
